US07253286B2
4-(4-((Cyclopropylamino)carbonyl)amino-3-methylphenoxy)-7-methoxy-6-quinolinecarboxylic acid
After dissolving N-cyclopropyl-N′-[2-methyl-4-(6-methoxycarbonyl-7-methoxy-4-quinolyl)oxyphenyl]urea (173 mg, 0.3972 mmol) in methanol (3 ml), 2N aqueous sodium hydroxide (1 ml) was added and the mixture was heated and stirred at 60° C. for 45 minutes. The solvent was distilled off under reduced pressure, the precipitated crystals were redissolved in methanol, and then 1N hydrochloric acid was added to pH 4 and saturated brine was further added. After extraction with ethyl acetate/tetrahydrofuran, the extract was washed with saturated brine and dried over anhydrous magnesium sulfate, the solvent was distilled off under reduced pressure, and the obtained crystals were suspended in acetone/diethyl ether and then filtered out and dried by aspiration to obtain the title compound (95 mg, 0.2332 mmol, 56.80%) as brown crystals.

reactant | N-cyclopropyl-N′-[2-methyl-4-(6-methoxycarbonyl-7-methoxy-4-quinolyl)oxyphenyl]urea | 0.3972 mmol, 173 mg | C1(CC1)NC(=O)NC1=C(C=C(C=C1)OC1=CC=NC2=CC(=C(C=C12)C(=O)OC)OC)C | C23H23N3O5
solvent | methanol | 3 ml | CO | CH4O
solvent | sodium hydroxide | 2N, 1 ml | [OH-].[Na+]
product | 4-(4-((Cyclopropylamino)carbonyl)amino-3-methylphenoxy)-7-methoxy-6-quinolinecarboxylic acid | 0.2332 mmol, 95 mg, 56.80% | C1(CC1)NC(=O)NC1=C(C=C(OC2=CC=NC3=CC(=C(C=C23)C(=O)O)OC)C=C1)C | C22H21N3O5
